US04290976
To a stirred solution of 567 g. (2.1 mols) of octadecyl alcohol and 212 g. (2.1 mols) of triethyl amine in 1800 ml. of toluene, at 30° C., there is added a solution of 265 g. (1.0 mol) of dichloropentaerythritol diphosphite in 600 ml. of toluene; the addition is made portionwise over a period of one hour, then the mixture is warmed with continued stirring at 45°-50° C. The cooled mixture is filtered to separate the triethylamine hydrochloride and the filtrate is stripped of toluene to a final temperature of 85° C./20 mm. The solid residue consitutes a quantitative yield of distearyl pentaerythritol diphosphite, M.P., 68°-70° C.

reactant | octadecyl alcohol | 2.1 mols | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | triethyl amine | 2.1 mols | C(C)N(CC)CC | C6H15N
reactant | dichloropentaerythritol diphosphite | 1.0 mol | OP(O)OP(O)O.ClC(O)(C(CO)(CO)CO)Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | distearyl pentaerythritol diphosphite | quantitative yield | OP(O)OP(O)O.C(CCCCCCCCCCCCCCCCC)C(O)(C(CO)(CO)CO)CCCCCCCCCCCCCCCCCC | InChI=1S/C41H84O4.H4O5P2/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-35-41(45,40(37-42,38-43)39-44)36-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;1-6(2)5-7(3)4/h42-45H,3-39H2,1-2H3;1-4H
